US05703240
N-(4-Benzyloxy-phenyl)-2,2,2-trifluoro-acetamide
A mixture of 4-benzyloxyaniline hydrochloride (0.19 mol) in dichloromethane (750 ml) at 0° under nitrogen was treated dropwise with trifluoroacetic anhydride (27.6 ml) then triethylamine (60 ml). After 24 h the mixture was poured into t-butyl methyl ether (1.5 l) and was washed with 2N hydrochloric acid (1 l). The organic phase was dried (MgSO4) and evaporated in vacuo to give the title compound as a white solid (52.3 g). T.l.c. (cyclohexane/ethylacetate (9:1)) Rf 0.36.

reactant | 4-benzyloxyaniline hydrochloride | 0.19 mol | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | trifluoroacetic anhydride | 27.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyl methyl ether | 1.5 l | COC(C)(C)C | C5H12O
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
product | N-(4-Benzyloxy-phenyl)-2,2,2-trifluoro-acetamide | 52.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(C(F)(F)F)=O | C15H12F3NO2
